US04475992
A 224 mg quantity of 3,4,5-triethoxytoluene and 20 mg of sodium fluoride were dissolved in 10 ml of ethanol. Electrolysis was conducted by immersing a carbon electrode as the anode and a stainless steel electrode as the cathode each having an electrolytic area of 3 cm2 , stirring the solution at room temperature and passing through the solution constant current of 30 mA at an electric charge of 3 F/mol. Subsequently the same procedure as in Example 1 was repeated producing 287 mg of 1,3,5,6,6-pentaethoxy-3-methyl-1,4-cyclohexadiene in 91.5% of theoretical yield. The compound thus obtained was identified by MNR.

reactant | 3,4,5-triethoxytoluene | C(C)OC=1C=C(C=C(C1OCC)OCC)C | C13H20O3
reactant | sodium fluoride | 20 mg | [F-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1,3,5,6,6-pentaethoxy-3-methyl-1,4-cyclohexadiene | 287 mg | C(C)OC1=CC(C=C(C1(OCC)OCC)OCC)(C)OCC | C17H30O5
